US04193922
4-(3-Chlorophenyl)-5,5-diethyl-1,2,4-oxadiazolidine-3-one
18.7 g. of N-(3-chlorophenyl)-N'-hydroxy-urea are added to 116 g. of diethyl ketone. The reaction is stirred at 90° C. for 1 hour. The reaction mixture is then evaporated to dryness and the residue is recrystallized from a mixture of methanol and water.

reactant | N-(3-chlorophenyl)-N'-hydroxy-urea | ClC=1C=C(C=CC1)NC(=O)NO | C7H7ClN2O2
solvent | diethyl ketone | C(C)C(=O)CC | C5H10O
product | 4-(3-Chlorophenyl)-5,5-diethyl-1,2,4-oxadiazolidine-3-one | ClC=1C=C(C=CC1)N1C(NOC1(CC)CC)=O | C12H15ClN2O2
